US06815458B2
Reaction-step 1: 4-(3-Phenylaminopropyl)piperidine (50ELH59)
Starting materials: 1-Methyl-4-piperidone (1.1 ml, 7.4 mmol, 1.0 eq.), 3-phenylpropylamine (1.35 g, 1.0 eq.).

reactant | 1-Methyl-4-piperidone | 7.4 mmol, 1.1 ml, 1.0 eq. | CN1CCC(CC1)=O | C6H11NO
reactant | 3-phenylpropylamine | 1.35 g, 1.0 eq. | C1(=CC=CC=C1)CCCN | C9H13N
product | 4-(3-Phenylaminopropyl)piperidine | C1(=CC=CC=C1)NCCCC1CCNCC1 | C14H22N2
